US07417064B2
[3-(Benzo[b]thiophen-4-yloxy)-4-cyclohexyl-butyl]-methyl-carbamic acid tert-butyl ester
Using a method similar to that for [3-(Benzo[b]thiophen-4-yloxy)-5-methyl-hexyl]-benzyl-methyl-amine, (4-cyclohexyl-3-hydroxy-butyl)-methyl-carbamic acid tert-butyl ester affords the title compound: mass spectrum (ion spray) m/z=418 (M+1); 1H NMR (CDCl3) δ 7.49-7.47 (d, 1H), 7.43-7.41 (d, 1H), 7.31-7.30 (d, 1H), 7.24 (t, 1H), 6.72 (d, 1H), 4.59-4.52 (m, 1H), 3.34-3.27 (m, 2H), 2.80 (s, 3H), 1.98-0.92 (m, 24).

reactant | [3-(Benzo[b]thiophen-4-yloxy)-5-methyl-hexyl]-benzyl-methyl-amine | S1C2=C(C=C1)C(=CC=C2)OC(CCN(C)CC2=CC=CC=C2)CC(C)C | C23H29NOS
reactant | (4-cyclohexyl-3-hydroxy-butyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCC(CC1CCCCC1)O)=O | C16H31NO3
product | [3-(Benzo[b]thiophen-4-yloxy)-4-cyclohexyl-butyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCC(CC1CCCCC1)OC1=CC=CC=2SC=CC21)=O | C24H35NO3S
